US07777047B2
N-methyl-2-{4-[(2-{7-[(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazol-5-yl)methyl]piperazin-1-yl}acetamide
To a solution of {4-[(2-{7-[(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazol-5-yl)methyl]piperazin-1-yl}acetic acid (0.230 g) in N,N-dimethylformamide (4 ml) were added 1H-1,2,3-benzotriazol-1-ol (0.066 g) and N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (0.093 g), and the mixture was stirred at 50° C. for 1 hr. A 2.0 mol/L solution of N-methylamine in THF (0.60 ml) was added to the reaction solution, and the mixture was stirred at 50° C. for 1 hr. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (methanol), and recrystallized from tetrahydrofuran-hexane to give the title compound (0.100 g, yield 42%) as colorless crystals.

reactant | {4-[(2-{7-[(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazol-5-yl)methyl]piperazin-1-yl}acetic acid | 0.230 g | S1C(=CC=C1)S(=O)(=O)NC=1C=CC=C2C=C(NC12)C=1SC(=CN1)CN1CCN(CC1)CC(=O)O | C22H23N5O4S3
reactant | 1H-1,2,3-benzotriazol-1-ol | 0.066 g | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 0.093 g | Cl.CN(CCCN=C=NCC)C
reactant | N-methylamine | CN | CH5N
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | THF | 0.60 ml | C1CCOC1 | C4H8O
solvent | Water | O | H2O
product | N-methyl-2-{4-[(2-{7-[(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazol-5-yl)methyl]piperazin-1-yl}acetamide | 0.100 g, yield 42% | CNC(CN1CCN(CC1)CC1=CN=C(S1)C=1NC2=C(C=CC=C2C1)NS(=O)(=O)C=1SC=CC1)=O | C23H26N6O3S3
